US07169797B2
3,5,3′-Trihydroxybiphenyl
To 395 mg (1.62 mmol) of 3,5,3′-trimethoxybiphenyl was added 9 mL of 1.0 M BBr3 in CH2Cl2. The mixture was stirred at ambient temperature for 1.5 h, then poured over 60 mL of ice, and extracted with ethyl acetate (2×25 mL). The combined organic layers were back extracted with water (1×25 mL), then brine (1×25 mL), dried over MgSO4, filtered, and concentrated to an oil. This was heated under vacuum at 110° C. to provide the titled compound (308 mg, 94%).

reactant | 3,5,3′-trimethoxybiphenyl | 1.62 mmol, 395 mg | COC=1C=C(C=C(C1)OC)C1=CC(=CC=C1)OC | C15H16O3
reactant | BBr3 | 1.0 M, 9 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,5,3′-Trihydroxybiphenyl | 308 mg, 94% | OC=1C=C(C=C(C1)O)C1=CC(=CC=C1)O | C12H10O3
